US09371320B2
A) (4-((2,5-dioxopyrrolidin-1-yl)methyl)phenyl)boronic acid
To a solution (10 mL) of pyrrolidine-2,5-dione (500 mg) in DMF was added sodium hydride (60% dispersion in mineral oil, 252 mg) at 0° C., and the mixture was stirred for 1 hr. (4-(Bromomethyl)phenyl)boronic acid (903 mg) was added thereto, and the mixture was stirred overnight at room temperature. The reaction mixture was extracted with water and ethyl acetate, and the organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and crystallized from ethyl acetate and diisopropyl ether to give the title compound (520 mg).

reactant | pyrrolidine-2,5-dione | 10 mL, 500 mg | N1C(CCC1=O)=O | C4H5NO2
reactant | sodium hydride | 252 mg | [H-].[Na+]
reactant | (4-(Bromomethyl)phenyl)boronic acid | 903 mg | BrCC1=CC=C(C=C1)B(O)O | C7H8BBrO2
solvent | DMF | CN(C)C=O | C3H7NO
product | (4-((2,5-dioxopyrrolidin-1-yl)methyl)phenyl)boronic acid | 520 mg | O=C1N(C(CC1)=O)CC1=CC=C(C=C1)B(O)O | C11H12BNO4
